US07317032B2
A. 4-Azido-1-(4-methoxy-phenyl)-butan-1-one
To a solution of 4-chloro-4′-methoxybutyrophenone (Acros Organics) (22.45 g, 106 mmol) in DMF (300 mL) was added sodium azide (13.7 g, 211 mmol). The solution was heated under N2 (g) at 70° C. for 4 h. The milky reaction mixture was partitioned between ethyl acetate (700 mL) and water (500 mL). The organic layer was washed with another portion of water (500 mL), followed by saturated aqueous sodium bicarbonate (500 mL) and brine (500 mL). The organic layer was dried (sodium sulfate) and concentrated to give an oil (22 g, 95% yield) which solidifed slowly upon standing. MS m/e 220; HPLC retention time 3.09 min.

reactant | 4-chloro-4′-methoxybutyrophenone | 106 mmol, 22.45 g | ClCCCC(=O)C1=CC=C(C=C1)OC | C11H13ClO2
reactant | sodium azide | 211 mmol, 13.7 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-Azido-1-(4-methoxy-phenyl)-butan-1-one | 22 g, 95% yield | N(=[N+]=[N-])CCCC(=O)C1=CC=C(C=C1)OC | C11H13N3O2
